US06713471B1
Tert-butyl 5-(3,4,5-trimethoxyphenyl)-1,2,6b,7,8,10,11,11a-octahydro-9H-azepino[4,5-b][1,4]oxazino[2,3,4-hi]indole-9-carboxylate (609 mg, 75%) was prepared via coupling of the tert-butyl 5-bromo-1,2,6b,7,8,10,11,11a-octahydro-9H-azepino[4,5-b][1,4]oxazino[2,3,4-hi]indole-9-carboxylate (671 mg, 1.64 mmol) with 3,4,5-trimethoxyphenyl boronic acid (522 mg, 2.46 mmol) as illustrated above using the typical procedure for Suzuki coupling. 1H NMR (CDCl3, 300 MHz) δ1.49 (s, 9H), 1.80-2.20 (m, 4H), 2.80-2.91 (m, 1H), 3.25 (d, 1H, J=10.8 Hz), 3.42-3.70 (m, 1H), 3.83 (s, 3H), 3.88 (s, 6H), 4.40-4.51 (m, 2H), 6.69 (s, 2H), 6.82 (s, 1H), 6.86 (s, 1H) ppm. CIMS (Methane) m/z=497 [MH]+.

reactant | tert-butyl 5-bromo-1,2,6b,7,8,10,11,11a-octahydro-9H-azepino[4,5-b][1,4]oxazino[2,3,4-hi]indole-9-carboxylate | 1.64 mmol, 671 mg | BrC=1C=C2C3C(N4C2=C(C1)OCC4)CCN(CC3)C(=O)OC(C)(C)C | C19H25BrN2O3
reactant | 3,4,5-trimethoxyphenyl boronic acid | 2.46 mmol, 522 mg | COC=1C=C(C=C(C1OC)OC)B(O)O | C9H13BO5
reactant | Methane | C | CH4
product | Tert-butyl 5-(3,4,5-trimethoxyphenyl)-1,2,6b,7,8,10,11,11a-octahydro-9H-azepino[4,5-b][1,4]oxazino[2,3,4-hi]indole-9-carboxylate | 609 mg, 75% | COC=1C=C(C=C(C1OC)OC)C=1C=C2C3C(N4C2=C(C1)OCC4)CCN(CC3)C(=O)OC(C)(C)C | C28H36N2O6
